* D:\Github\WPT-Motor\Test-Result\Experiment-Diary\frequency_domain.asc
Lp1 N002 N005 {Lp}
C3 N002 N001 {Cp}
Ls1 N003 N006 {Ls}
C4 N004 N003 {Cs}
V1 N001 0 SINE(0 18 {f}) AC 1
R1 N004 N007 {R}
R2 N005 0 0.2
R3 N007 N006 0.2
.param f=65k
.param Lp=205u
.param Ls=51u
.param Cp 28n
.param Cs 115.6n
.param k= 0.396
.ac lin 24 42500 100000
.options gmin=1e-10
.options abstol=1e-10
.options reltol=0.003
.options cshunt=1e-15
.param R 8.554
K1 Lp1 Ls1 {k}
.backanno
.end
